US07041838B2
22.3 g (0.53 mol) of sodium boron hydroxide and 344.0 g of DMF were placed in a 3-L round flask equipped with an agitator, a thermometer and a dropping funnel, and the mixture was stirred at room temperature so as to dissolve sodium boron hydroxide. Thereafter, the internal temperature was cooled to 0° C. to 5° C. in an ice bath. Separately, 161.6 g (0.984 mol) of a white solid 5-norbornene-2,3-dicarboxylic anhydride (Wako Pure Chemical Industries, Ltd.) and 242.4 g of DMF were placed in a 500 ml beaker, and the mixture was fully stirred so that the solid was completely dissolved. Thereafter, the mixture was transferred to the above dropping funnel, and it was dropped, while paying attention so that the internal temperature of the flask was controlled within a range of 5° C. to 30° C. After completion of the dropping, stirring was further continued for 2 hours in an ice bath. Thereafter, 1.5 L of water was added thereto, while paying attention so that the internal temperature of the flask was controlled within a range of 5° C. to 30° C., and then concentrated sulfuric acid was added thereto until the pH became 0.5. The obtained mixture was extracted twice with MIBK. This time, the water layer was well separated from the organic layer. Thereafter, the combined organic layers were washed with water, and they were then concentrated with an evaporator. The obtained concentrate was analyzed by gas chromatography using a capillary column HP-5 (Hewlett-Packard). As a result, 133.2 g (0.887 mol) of 4-oxatricyclo[5.2.1.02,6]decen-3-one was obtained at a yield of 90%. Moreover, in the concentrate, MIBK represented 42% to the total mass.

reactant | sodium boron hydroxide | 0.53 mol, 22.3 g | [OH-].[B+3].[Na+].[OH-].[OH-].[OH-]
reactant | DMF | 344.0 g | CN(C)C=O | C3H7NO
reactant | 5-norbornene-2,3-dicarboxylic anhydride | C12C3C(C(C=C1)C2)C(=O)OC3=O | C9H8O3
reactant | DMF | 242.4 g | CN(C)C=O | C3H7NO
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | 1.5 L | O | H2O
product | 4-oxatricyclo[5.2.1.02,6]decen-3-one | 0.887 mol, 133.2 g, yield of 90% | C12=C3C(OCC3C(CC1)C2)=O | C9H10O2
